US05786379
(a) Preparation of O-3-(1-adamantyl)-4-methoxyphenyl dimethylthiocarbamate
600 mg (20 mmol) of sodium hydride (80% in oil) and 50 ml of DMF were introduced into a round-bottomed flask under a stream of nitrogen. The mixture was cooled to 0° C. and a solution of 5.5 g (20 mmol) of 3-(1-adamantyl)-4-methoxyphenol in 100 ml of DMF was added dropwise, tand he mixture was stirred until the evolution of gas had ceased. A solution of 3.3 g (26 mmol) of dimethylthiocarbamoyl chloride in 50 ml of DMF was then added thereto and the mixture was stirred for eight hours at room temperature. The reaction medium was poured into water and extracted with ethyl acetate. The organic phase was separated out after settling had taken place, washed with water, dried over magnesium sulfate and evaporated. The residue obtained was purified by chromatography on a column of silica, eluted with a mixture of dichloromethane and hexane (70/30). After evaporation of the solvents, 3.1 g (46%) of the expected compound having a melting point of 162°-4° C., were recovered.

reactant | sodium hydride | 20 mmol, 600 mg | [H-].[Na+]
reactant | 3-(1-adamantyl)-4-methoxyphenol | 20 mmol, 5.5 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)O | C17H22O2
reactant | dimethylthiocarbamoyl chloride | 26 mmol, 3.3 g | CN(C(=S)Cl)C | C3H6ClNS
reactant | water | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | O-3-(1-adamantyl)-4-methoxyphenyl dimethylthiocarbamate | CN(C(OC1=CC(=C(C=C1)OC)C12CC3CC(CC(C1)C3)C2)=S)C | C20H27NO2S
